US07649002B2
(4S)-4-Benzyl-3-{[(3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one
To a cooled solution of (4S)-4-benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one, from preparation 23 (5 g, 14.62 mmol) and N-benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine (5.24 mL, 20.47 mmol) in dichloromethane (50 mL) was added trifluoroacetic acid (60 L, 0.73 mmol). The reaction mixture was stirred at 0° C. for 20 minutes and then warmed to room temperature and stirred for 24 hours. Sodium hydrogen carbonate solution (80 mL) was added and the reaction mixture was stirred for 10 minutes. The phases were separated and the organic phase was dried over magnesium sulfate and the solvent was removed in vacuo to give a yellow oil. Purification by column chromatography on silica gel using ethyl acetate:pentane (10:50-50:50) as eluent afforded the desired product (which is the second-eluting diastereomer) as a white crystalline solid, 733 mg (11%).

reactant | (4S)-4-benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=C(C=C1)Cl)=O | C19H16ClNO3
reactant | N-benzyl-1-methoxy-N-[(trimethylsilyl)methyl]methanamine | 20.47 mmol, 5.24 mL | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | trifluoroacetic acid | 0.73 mmol, 60 L | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium hydrogen carbonate | 80 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (4S)-4-Benzyl-3-{[(3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C28H27ClN2O3
